US04153614
Manufacture of α-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2,4-(S)-trimethyl-1,3-dioxolan-4-ethanol
To 0.8 g of magnesium shavings activated with methyl iodide was added dropwise a solution of 7.77 g of 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene in 20 ml of absolute tetrahydrofuran at a rate such that the solvent was brought just to boiling. Subsequently, the reaction mixture was boiled under reflux for an additional hour. To this Grignard solution, cooled down to 0°, were added dropwise 5.0 g of (S)-2,2,4-trimethyl-1,3-dioxolan-4-acetaldehyde. Subsequently, the reaction mixture was stirred at room temperature for a further 4 hours and under reflux for 15 minutes. For the working-up, the reaction mixture was cooled down to 0°, it was treated with 10 ml of saturated ammonium chloride solution followed by 10 ml of 2-N sulfuric acid and extracted with a total of 0.51 of ether. The organic phase was washed neutral with water and dried over magnesium sulfate. After removal of the solvent on a rotary evaporator and drying of the residue in a high vacuum, there were obtained 10.5 g of a highly viscous oil, which, for purification, was chromatographed on 450 g of Kieselgel with ether/hexane/acetic ester (4:4:1 parts by volume). The yield of α-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2,4-(S)-trimethyl-1,3-dioxolan-4-ethanol amounted to 8.83 g; [α]D20 =-5.5° (c=1.20; CHCl3).

reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
reactant | 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene | 7.77 g | BrC1=C(C(=C(C(=C1C)OC)C)C)OC | C11H15BrO2
reactant | (S)-2,2,4-trimethyl-1,3-dioxolan-4-acetaldehyde | 5.0 g | CC1(OC[C@@](O1)(CC=O)C)C | C8H14O3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | α-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2,2,4-(S)-trimethyl-1,3-dioxolan-4-ethanol | COC1=C(C(=C(C(=C1C)C)OC)C)C(C[C@@]1(OC(OC1)(C)C)C)O | C19H30O5
